US07851493B2
50 mg of 3-{4-[4-hydroxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one were dissolved in 2 mL of dimethylformamide by heating to 60° C. and 2 mL of dichloromethane was added. To the resulting solution was added 90 mg of manganese dioxide. The reaction mixture was heated to 60° C. overnight. 5 mL of dimethylformamide was added. The hot mixture was filtered through celite and washed with dichloromethane/methanol. The filtrate was concentrated under reduced pressure to give 30 mg of 5-[3-methoxy-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazole-4-carbaldehyde which was used in the next step without further purification.

reactant | 3-{4-[4-hydroxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one | 50 mg | OCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F | C21H16F3N3O5S
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | manganese dioxide | 90 mg | [O-2].[O-2].[Mn+4]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-[3-methoxy-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazole-4-carbaldehyde | 30 mg | COC=1C=C(OCC2=C(N=C(S2)C2=CC=C(C=C2)C(F)(F)F)C=O)C=CC1C1=NOC(N1)=O | C21H14F3N3O5S
